US04831149
To a suspension of iron powder (28.75 g) in 5 % aqueous acetic acid (57.5 ml) heated at 80° C., a solution of 3-chloro-2-(2-fluoro-5-nitrophenyl)-4,5,6,7-tetrahydro-2H-indazole (30.45 g) in acetic acid (103 ml) and ethyl acetate (103 ml) was aded, and the resultant mixture was heated at a temperature of 60° to 80° C. under reflux for 3 hours. After cooling, water and ethyl acetate were added to the reaction mixture. The residue was removed by filtration. The filtrate was extracted with ethyl acetate, and the extract was washed with water and an aqueous sodium bicarbonate solution, dried and concentrated to give 2-(5-amino-2-fluorophenyl)-3-chloro-4,5,6,7-tetrahydro-2H-indazole (22.97 g). m.p., 120.9° C.

reactant | 3-chloro-2-(2-fluoro-5-nitrophenyl)-4,5,6,7-tetrahydro-2H-indazole | 30.45 g | ClC=1N(N=C2CCCCC12)C1=C(C=CC(=C1)[N+](=O)[O-])F | C13H11ClFN3O2
reactant | water | O | H2O
solvent | acetic acid | 57.5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 103 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 103 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 28.75 g | [Fe] | Fe
product | 2-(5-amino-2-fluorophenyl)-3-chloro-4,5,6,7-tetrahydro-2H-indazole | 22.97 g | NC=1C=CC(=C(C1)N1N=C2CCCCC2=C1Cl)F | C13H13ClFN3
